US05543518
2-(5--Chloro-2,4-dihydroxyphenyl)-4,6-bis-(2,4-dimethylphenyl)-s-triazine
To a 1 L three-necked, round-bottomed flask equipped with a magnetic stirrer, thermometer, condenser, and a nitrogen atmosphere are charged 20.0 g (61.9 mmol) of 2-chloro-4,6-bis-(2,4-dimethylphenyl)-s-triazine and 50 mL of tetrachloroethane. The mixture is warmed to dissolve the solids and 8.24 g (62.0 mmol) of aluminum chloride are added in small portions all at once followed by 9.00 g (62.1 mmol) of 4-chlororesorcinol. The mixture is stirred at 120° C. for four hours. After cooling to room temperature 50 mL of water and 10 mL of concentrated hydrochloric acid are added and the mixture is refluxed for two hours. After cooling, the mixture is extracted thrice with ethyl acetate and the combined organic layers are dried over anhydrous magnesium sulfate and filtered. The solvent is removed under reduced pressure to yield a yellow solid. Recrystallization from ethyl acetate/heptane affords 8.65 g of the title compound as a yellow solid.

reactant | 2-chloro-4,6-bis-(2,4-dimethylphenyl)-s-triazine | 61.9 mmol, 20.0 g | ClC1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C19H18ClN3
reactant | tetrachloroethane | 50 mL | ClCC(Cl)(Cl)Cl | C2H2Cl4
reactant | aluminum chloride | 62.0 mmol, 8.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlororesorcinol | 62.1 mmol, 9.00 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 2-(5--Chloro-2,4-dihydroxyphenyl)-4,6-bis-(2,4-dimethylphenyl)-s-triazine | 8.65 g | ClC=1C(=CC(=C(C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C)O)O | C25H22ClN3O2
